US07645755B2
b) 5-Amino-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester
A solution of 226 mg (0.740 mmol) 5-nitro-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (as prepared in the previous step) in 15 mL MeOH was treated with 110 mg 10% Pd/C (Degussa type E101-NE/W, Aldrich, 50% by weight water) and 1 atm H2 at room temperature for 18 h. The mixture was filtered through Celite, and the filter cake was washed with MeOH. Concentration afforded 220 mg (107%) of the title compound as a colorless glassy solid. Mass spectrum (ESI, m/z): Calcd. for C15H23N3O2, 278.2 (M+H), found 278.0.

reactant | 5-nitro-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 0.740 mmol, 226 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C15H19N3O4
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 110 mg | [Pd] | Pd
product | 5-Amino-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 220 mg, 107% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=C(C=C1)N | C15H23N3O2
